US08058441B2
(b). 1-Acetyl-6-([4-methoxybenzylamino]carbonylmethylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Condensation of 4-methoxybenzylamine (5.2 mg) with 1-acetyl-6-(hydroxycarbonylmethylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg), under the agency of HATU (19 mg) and N,N-diisopropylethylamine (16 μl) in tetrahydrofuran (2 ml) was performed according to the method described in example 11.

reactant | 4-methoxybenzylamine | 5.2 mg | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 1-acetyl-6-(hydroxycarbonylmethylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(=O)CC(=O)O)(C)C1=CC=CC=C1)(C)C | C23H26N2O4
reactant | HATU | 19 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 16 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-([4-methoxybenzylamino]carbonylmethylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(=O)CC(=O)NCC1=CC=C(C=C1)OC)(C)C1=CC=CC=C1)(C)C | C31H35N3O4
